US05635197
(+)-(4aR)-(10bR)-4,10b-dimethyl-8-(phenylsulfonyl)-1,2,3,4,-4a,-5,6,10b-octahydrobenzo[f]quinolin-3-one
A 200 mg portion of (4aR)-(10bR)-10b-methyl-8-(phenylsulfonyl)-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]-quinolin-3-one was methylated with methyl iodide to obtain 144 mg of the desired product. mp 165°-167° FDMS: m/e=369. α[D]589 =+76.2, α[D]365 =+269.7 (chloroform).

reactant | (4aR)-(10bR)-10b-methyl-8-(phenylsulfonyl)-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]-quinolin-3-one | C[C@@]12CCC(N[C@@H]2CCC2=C1C=CC(=C2)S(=O)(=O)C2=CC=CC=C2)=O | C20H21NO3S
reactant | methyl iodide | CI | CH3I
product | (+)-(4aR)-(10bR)-4,10b-dimethyl-8-(phenylsulfonyl)-1,2,3,4,-4a,-5,6,10b-octahydrobenzo[f]quinolin-3-one | 144 mg | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)S(=O)(=O)C3=CC=CC=C3)C)=O | C21H23NO3S
